US05763450
16bc) 150 mg of diethyl [4-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3-dimethoxy-phenylethynyl]-phenyl]-phosphonate (Example 12bo)) are dissolved in 5 ml of ethanol and treated with 5 ml of a 2N sodium hydroxide solution. The solution is held under reflux for 2 hrs., then cooled and chromatographed on MCl gel with water/acetonitrile. 43 mg of [4-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3-dimethoxy-phenylethynyl]-phenyl]-phosphonic acid disodium salt are isolated. Yield: 29%. Mass spectrum: peaks inter alia at m/e: 463 (M++Na, 30%), 441 (M++H, 100%), 412 (22%).

reactant | diethyl [4-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3-dimethoxy-phenylethynyl]-phenyl]-phosphonate | 150 mg | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)C#CC1=CC=C(C=C1)P(OCC)(OCC)=O)OC)OC | C25H29N4O5P
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | [4-[5-(2,4-diamino-pyrimidin-5-ylmethyl)-2,3-dimethoxy-phenylethynyl]-phenyl]-phosphonic acid disodium salt | 43 mg, Yield: 29% | [Na+].[Na+].NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)C#CC1=CC=C(C=C1)P([O-])([O-])=O)OC)OC | InChI=1S/C21H21N4O5P.2Na/c1-29-18-11-14(10-16-12-24-21(23)25-20(16)22)9-15(19(18)30-2)6-3-13-4-7-17(8-5-13)31(26,27)28;;/h4-5,7-9,11-12H,10H2,1-2H3,(H2,26,27,28)(H4,22,23,24,25);;/q;2*+1/p-2
